US05082838
6-Chloro-1-cyanomethyl-3-propylpyrimidine-2,4(1H,3H)-dione
Chloroactonitrile (16.5 g) and potassium carbonate (29.3 g) were added to a solution of 6-chloro-3-propylpyrimidine-2,4(1H,3H)-dione (20 g) in DMF (200 ml), and the mixture was stirred at room temperature for 24 hours. The reaction solution was concentrated and evaporated to dryness to obtain a residue. A resulting residue was dissolved in chloroform and H2O, and the organic layer was washed with water and dried. The solvent was evaporated to dryness to give a syrup, which was purified by column chromatography on silica gel to give a crystalline product. Recrystalization of the crude crystals from ethyl acetate-isopropylether gave colorless prisims (21.1 g, 87%), mp. 83°-84° C.

reactant | Chloroactonitrile | 16.5 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 29.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-3-propylpyrimidine-2,4(1H,3H)-dione | 20 g | ClC1=CC(N(C(N1)=O)CCC)=O | C7H9ClN2O2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-1-cyanomethyl-3-propylpyrimidine-2,4(1H,3H)-dione | ClC1=CC(N(C(N1CC#N)=O)CCC)=O | C9H10ClN3O2
